### PR TITLE
Sum nat eq1

### PR DESCRIPTION
**Pull request by proux01**
##### Motivation for this change

Address https://github.com/math-comp/math-comp/pull/682#discussion_r565183733 and https://github.com/math-comp/math-comp/pull/682#discussion_r565185950

##### Dependency

Depends on: #682

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] ~added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] ~I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).~ (based on #682 which won't be backported to MC1)

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

**Comment by proux01** [comment]
@pi8027 since you are the author of the comments that triggered this, I guess you are the natural assignee here.

File: mathcomp/algebra/archimedean.v [hunk 1]
```diff
@@ -205,35 +205,45 @@ Proof. by move=> /natrP[n ->]; rewrite pnatr_eq0 ltr0n lt0n. Qed.
 Lemma norm_natr x : x \is a nat_num -> `|x| = x.
 Proof. by move/natr_ge0/ger0_norm. Qed.
 
-Lemma natr_sum_eq1 (I : finType) (P : pred I) (F : I -> R) :
-     (forall i, P i -> F i \is a nat_num) -> \sum_(i | P i) F i = 1 ->
-   {i : I | [/\ P i, F i = 1 & forall j, j != i -> P j -> F j = 0]}.
+Lemma sum_truncK (I : eqType) r (P : pred I) F :
+    {in r, forall i, P i -> F i \is a nat_num} ->
+  (\sum_(i <- r | P i) trunc (F i))%:R = \sum_(i <- r | P i) F i.
```
Comment (CohenCyril) [inline mathcomp/algebra/archimedean.v:210]: In general lemmas on bigops on sequences are not relativised by the sequence.
The reason is threefold:
1. the dependency on the indexes drops from `eqType` to `Type`
2. the lemma applies seamlessly to other summations, on fintypes, without introducing a spurious `forall r, r \in T, ...` quantification in the premice
3. the relativisation can always be recovered using `big_seq_cond`.

File: mathcomp/algebra/archimedean.v [hunk 2]
```diff
@@ -205,35 +205,45 @@ Proof. by move=> /natrP[n ->]; rewrite pnatr_eq0 ltr0n lt0n. Qed.
...
+  (\prod_(i <- r | P i) trunc (F i))%:R = \prod_(i <- r | P i) F i.
+Proof.
+move=> natr; rewrite natr_prod big_seq_cond [RHS]big_seq_cond.
+by under eq_bigr => i /andP[? ?] do rewrite truncK ?natr//.
+Qed.
+
+Lemma natr_sum_eq1 (I : eqType) r (P : pred I) (F : I -> R) :
+    {in r, forall i, P i -> F i \is a nat_num} -> \sum_(i <- r | P i) F i = 1 ->
+  exists i : I, [/\ i \in r, P i, F i = 1
+                & forall j, j != i -> j \in r -> P j -> F j = 0].
```
Comment (CohenCyril) [inline mathcomp/algebra/archimedean.v:227]: This lemma used to be specialized to summation on a fintype to avoid the complexities linked to relativisation, which are not used in practice, indeed the code that you patched only adds `_` here and there to forget the extra information.

At least for backward compatibility reasons, the theorem should not be altered with the current name.

If it is really necessary, the theorem you state here can be added with a modified name eg happening `_seq` somewhere in the name, and it can easily be derived from the finite version using lemma `big_tnth`.

File: mathcomp/algebra/archimedean.v (hunk 1 above)
Comment (ybertot) [reply mathcomp/algebra/archimedean.v:210]: Can you clarify what you mean by "relativised"?

File: mathcomp/algebra/archimedean.v (hunk 2 above)
Comment (ybertot) [reply mathcomp/algebra/archimedean.v:227]: you should replace "happening"  with "appending"

File: mathcomp/algebra/archimedean.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/algebra/archimedean.v:210]: By relativisation by `r` I mean adding a `i \in r` in the precondition.

**Comment by proux01** [comment]
@CohenCyril thanks for the review, all your comments should now be taken into account and CI is "green" (tarjan failure is fixed in master and coq-master failures are due to https://github.com/math-comp/hierarchy-builder/pull/372 )

File: mathcomp/ssreflect/bigop.v [hunk 3]
```diff
@@ -2524,6 +2524,66 @@ Lemma sum_nat_eq0 (I : finType) (P : pred I) (E : I -> nat) :
...
+Lemma sum_nat_seq_neq0 I r (P : pred I) F :
+  (\sum_(i <- r | P i) F i != 0)%N = has (fun i => P i && (F i != 0)%N) r.
+Proof.
+by rewrite sum_nat_seq_eq0// -has_predC; apply: eq_has => x /=; case Px: (P x).
+Qed.
+
+Lemma sum_nat_seq_eq1 (I : eqType) r (P : pred I) (F : I -> nat) :
+    (\sum_(i <- r | P i) F i = 1)%N ->
+  exists i, [/\ i \in r, P i, F i = 1
+            & forall j, j != i -> j \in r -> P j -> F j = 0]%N.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:2540]: @proux01 the same remark I did applies here too.

Comment (proux01) [reply mathcomp/ssreflect/bigop.v:2540]: I'm not sure for this one. The seq and fintype statements are not the same: for fintype we get an equivalence whereas for seq only one direction holds (because there could be duplicates in the seq).

Comment (proux01) [reply mathcomp/ssreflect/bigop.v]: You're right the proofs are indeed much shorter, thanks!

File: mathcomp/ssreflect/bigop.v [hunk 4]
```diff
@@ -2524,6 +2524,63 @@ Lemma sum_nat_eq0 (I : finType) (P : pred I) (E : I -> nat) :
...
+Proof.
+rewrite big_tnth/= => /eqP/sum_nat_eq1[/= i [Pi Fi FNi]].
+exists (tnth (in_tuple r) i); split;  rewrite //= ?mem_tnth// => j.
+move=> /[swap] /(tnthP (in_tuple r))[{} j -> Nij /FNi->//].
+by apply: contra_neq Nij => ->.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:2562]: @proux01 in the end do we remove it?

Comment (proux01) [reply mathcomp/ssreflect/bigop.v:2562]: I don't have a strong opinion. I'd rather keep it as a remainder that the equivalence doesn't hold on sequences with potential duplicates. But if you really prefer to remove it, please go ahead.

File: mathcomp/ssreflect/bigop.v [hunk 5]
```diff
@@ -2524,6 +2524,63 @@ Lemma sum_nat_eq0 (I : finType) (P : pred I) (E : I -> nat) :
...
+  rewrite (bigD1 i)//= Fi1 addn_eq1//= orbF sum_nat_eq0.
+  by apply/forall_inP => j /andP[Pj ji]; apply/eqP/zFj.
+have /forall_inPn [i Pi FiN0]: ~~ [forall i in P, F i == 0].
+  by apply: contraTN sumF_eq1 => /'forall_in_eqP F0; rewrite big1.
+move: sumF_eq1; rewrite (bigD1 i)//= addn_eq1 (negPf FiN0)/= orbF.
+move=> /andP[/eqP Fi1]; rewrite sum_nat_eq0 => /'forall_in_eqP FNi0.
+by exists i; split; rewrite // => j /[swap] Nij /(conj Nij)/andP/FNi0.
+Qed.
+
+(* TODO: remove ? *)
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/bigop.v:2552]: Ok let's keep it.
